US07625902B2
(RS)-3-(2-Chloro-phenyl)-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-1-(propane-2-sulfonyl)-imidazolidin-2-one
In analogy to example 1, (RS)-3-(2-chloro-phenyl)-2-oxo-1-(propane-2-sulfonyl)-imidazolidine-4-carboxylic acid was coupled with 1-(2,5-dimethylphenyl)piperazine to give the title compound as a colorless solid. MS: 519.3 ([M+H]+)

reactant | (RS)-3-(2-chloro-phenyl)-2-oxo-1-(propane-2-sulfonyl)-imidazolidine-4-carboxylic acid | ClC1=C(C=CC=C1)N1C(N(CC1C(=O)O)S(=O)(=O)C(C)C)=O | C13H15ClN2O5S
reactant | 1-(2,5-dimethylphenyl)piperazine | CC1=C(C=C(C=C1)C)N1CCNCC1 | C12H18N2
product | (RS)-3-(2-Chloro-phenyl)-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-1-(propane-2-sulfonyl)-imidazolidin-2-one | ClC1=C(C=CC=C1)N1C(N(CC1C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C)S(=O)(=O)C(C)C)=O | C25H31ClN4O4S
